US07144881B2
Step B: 2-(4-Fluoro-phenyl)-cyclopropanecarboxylic acid methoxy-methyl-amide
NaH (8 g, 60% oil dispersion) was added to a suspension of trimethylsulfoxonium iodide (44 g) in DMF (150 mL) at 0° C. The resulting mixture was allowed to warm to room temperature and stirred for 0.5 h. A solution of 3-(4-fluoro-phenyl)-N-methoxy-N-methyl-acrylamide (20.4 g) was added to the above reaction mixture at 0° C., and the resulting reaction was allowed to warm to room temperature and stirred for 2 h. The reaction was quenched with water and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo to give a residue. The residue was purified by flash chromatography over silica gel (elution with 50% hexanes in ethyl acetate) to give the title compound (15 g) as an oil.

reactant | NaH | 8 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 44 g | [I-].C[S+](=O)(C)C
reactant | 3-(4-fluoro-phenyl)-N-methoxy-N-methyl-acrylamide | 20.4 g | FC1=CC=C(C=C1)C=CC(=O)N(C)OC | C11H12FNO2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(4-Fluoro-phenyl)-cyclopropanecarboxylic acid methoxy-methyl-amide | 15 g | CON(C(=O)C1C(C1)C1=CC=C(C=C1)F)C | C12H14FNO2
